US07025901B2
4-Bromophenyl Disulfide
4-Bromobenzene thiol (25.0 g, 132 mmol) and methanol (250 mL, Fisher Scientific) were added to a 500 mL round bottom flask containing a Teflon coated stir bar. Excess elemental iodine (36 g, 140 mmol) was added in 2 g portions directly to the rapidly stirred thiol solution, precipitating the disulfide. The reaction was complete when the dark color of iodine persisted. The reaction mixture was added to 250 mL of water, which was then carefully neutralized with solid sodium bicarbonate then with sodium bisulfite, to neutralize any remaining I2. The resulting slurry was then extracted three times with 50 mL of methylene chloride; the organic layers were combined, dried over magnesium sulfate, and filtered. Removal of the solvent on a rotary evaporator revealed a light yellow solid, crude 4-bromophenyl disulfide (24.5 g, 98.7%). The disulfide was recrystallized from boiling methanol then fused under vacuum to remove any remaining solvent.

reactant | 4-Bromobenzene thiol | 132 mmol, 25.0 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | iodine | 140 mmol, 36 g | II | I2
solvent | methanol | 250 mL | CO | CH4O
product | 4-Bromophenyl Disulfide | BrC1=CC=C(C=C1)SSC1=CC=C(C=C1)Br | C12H8Br2S2
